US08182718B2
Hou=N-Ethyl-N-(pyridin-2-ylmethyl)pyridin-2-amine
To a flask were added 2.5 g N-(pyridin-2-ylmethyl)pyridin-2-amine and 40 ml N,N-dimethylformamide, and the mixture was cooled to 5 C. To this mixture was added 0.65 g of 60% sodium hydride in mineral oil in small portions, and after stirring at 5-10 C for ten minutes, 2.2 g of diethyl sulfate were added. The reaction mixture was heated to 45 C for 16 hours, then cooled to 22 C and quenched with 40 ml water. The product was extracted twice with 40 ml hexane and following removal of the solvent, the product was purified by silica gel chromatography using a gradient from 50% ethyl acetate, 49% hexane and 1% methanol to 60% ethyl acetate, 39% hexane, and 1% methanol resulting in 1.4 g of a yellow oil.

reactant | N-(pyridin-2-ylmethyl)pyridin-2-amine | 2.5 g | N1=C(C=CC=C1)CNC1=NC=CC=C1 | C11H11N3
reactant | sodium hydride | 0.65 g | [H-].[Na+]
reactant | diethyl sulfate | 2.2 g | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-Ethyl-N-(pyridin-2-ylmethyl)pyridin-2-amine | C(C)N(C1=NC=CC=C1)CC1=NC=CC=C1 | C13H15N3
